US07253165B2
Synthesis of (R)-1-(4-chloro-benzylamino)-3-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dichloroethane, 4-chlorobenzylamine, and ethanol, essentially as described above in Example 57. Purity by LC/MS=95%, [M+H]+=427.

reactant | (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC(=CC=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | ethanol | C(C)O | C2H6O
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | (R)-1-(4-chloro-benzylamino)-3-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol | ClC1=CC=C(CNC[C@H](COC2=CC(=CC=C2)C2=NOC3=C2C=CC(=C3)F)O)C=C1 | C23H20ClFN2O3
